US05589473
To a stirred solution of 400 mg of (R)-2-[2 -amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl-methyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy -6-methyl-benzoic acid methyl ester in 20 ml of dry dichloromethane were added slowly 186 mg of 1,1'-thiocarbonyldi-2(1H)-pyridone. The red solution was stirred for 30 min at room temperature and then cooled in an ice bath. Upon the addition of 94 mg of benzamidine (~85%), stirring was continued for 1 h at 0° C. and for 10 h at 20° C. The solution was evaporated in vacuo and the residue was chromatographed on silica gel using ethyl acetate/hexane (2:1, v/v) as eluent to afford 480 mg of (R)-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-2-[2-[3-(imino-phenyl-methyl)-thioureido]-2-(3-methyl-1,2,4-oxadiazol-5-yl) -ethylsulfanylmethyl]-5-methoxy-6-methyl-benzoic acid methyl ester as a colorless oil.

reactant | (R)-2-[2 -amino-2-(3-methyl-1,2,4-oxadiazol-5-yl)-ethylsulfanyl-methyl]-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-5-methoxy -6-methyl-benzoic acid methyl ester | 400 mg | COC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)N)=O | C24H39N3O5SSi
reactant | 1,1'-thiocarbonyldi-2(1H)-pyridone | 186 mg | C(=S)(N1C(C=CC=C1)=O)N1C(C=CC=C1)=O | C11H8N2O2S
reactant | benzamidine | 94 mg | C(C1=CC=CC=C1)(=N)N | C7H8N2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | (R)-3-[dimethyl-(1,1,2-trimethyl-propyl)-silanyloxy]-2-[2-[3-(imino-phenyl-methyl)-thioureido]-2-(3-methyl-1,2,4-oxadiazol-5-yl) -ethylsulfanylmethyl]-5-methoxy-6-methyl-benzoic acid methyl ester | 480 mg | COC(C1=C(C(=CC(=C1C)OC)O[Si](C(C(C)C)(C)C)(C)C)CSC[C@@H](C1=NC(=NO1)C)NC(=S)NC(C1=CC=CC=C1)=N)=O | C32H45N5O5S2Si
